### PR TITLE
feat: catch and provide context for misuse of NNG-style induction pattern

### PR DESCRIPTION
**Pull request by robsimmons**
This PR adds a focused error explanation aimed at the case where someone tries to use Natural-Numbers-Game-style `induction` proofs directly in Lean, where such proofs are not syntactically valid.

## Discussion

The natural numbers game uses a syntax that overlaps with Lean's `induction` syntax despite having more structural similarity to `induction'`. This means that fully correct proofs in the natural numbers game, like this...

```lean4
import Mathlib
theorem zero_mul (m : ℕ) : 0 * m = 0 := by
  induction m with n n_ih
  rw [mul_zero]
  rfl
  rw [mul_succ]
  rw [add_zero]
  rw [n_ih]
  rfl
```

...have completely baffling error messages from a newcomers' perspective:

```
notNaturalNumbersGame.lean:3:20: error: unknown tactic
notNaturalNumbersGame.lean:3:2: error: Alternative `zero` has not been provided
notNaturalNumbersGame.lean:3:2: error: Alternative `succ` has not been provided
```

(the Mathlib import here only provides the `ℕ` syntax here; equivalently `ℕ` could be renamed to `Nat` and the import could be removed, [like this](https://live.lean-lang.org/#codez=C4Cwpg9gTmC2AEAvMUIH1YFcA28AUCAXPAHICGwAlPMQAzwBU8CAvPPYWwEYCeAUPHgBLAHYATTAGNgQiCObwA7kNDx5ItEJAD4URfADaWbGmSoAujqgAzbFf1GcaAM5TJlwXsNkxY0yggPXQcNLSCbbCA))

There are many problems with this proof from the perspective of "stock" Lean, but the error messages in the `induction` case are particularly unfriendly and provide no guidance from a NNG learner's perspective.

This PR provides more information about what is wrong:

```
notNaturalNumbersGame.lean:3:20: error: unknown tactic
notNaturalNumbersGame.lean:3:14: error(lean.inductionWithNoAlts): Invalid syntax for induction tactic: The `with` keyword must followed by a tactic or by an alternative (e.g. `| zero =>`), but here it is followed by the identifier `n`.
```

The error explanation it links to explicitly flags the transition of NNG-style proofs to Lean as the likely culprit, and gives an example of an effective translation.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase fa67f300f6352a8e1813c714474a282f89663445 --onto f2e191d0afbb5adcc6f12e1779c8b141fc9af996`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-25 02:34:18)
- ✅ Mathlib branch [lean-pr-testing-11347](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11347) has successfully built against this PR. (2025-11-25 17:33:41) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19676754096)

File: src/Lean/CoreM.lean [hunk 1]
```diff
@@ -522,7 +522,7 @@ instance : MonadLog CoreM where
     if (← read).suppressElabErrors then
       -- discard elaboration errors, except for a few important and unlikely misleading ones, on
       -- parse error
-      unless msg.data.hasTag (· matches `Elab.synthPlaceholder | `Tactic.unsolvedGoals | `trace) do
+      unless msg.data.hasTag (· matches `Elab.synthPlaceholder | `Tactic.unsolvedGoals | `lean.inductionWithNoAlts._namedError | `trace) do
```
Comment (Kha) [inline src/Lean/CoreM.lean:525]: Might be time to add a flag to `Message` for this
